US08865712B2
b) 4-(6-Bromo-pyridin-2-yl)-4-methyl-2,5-dioxo-imidazolidine-1,3-dicarboxylic acid di-tert-butyl ester
A solution of 5-(6-bromo-pyridin-2-yl)-5-methyl-imidazolidine-2,4-dione (22.8 g, 84.4 mmol), Boc2O (58.8 ml, 55.3 g, 253.4 mmol) and DMAP (0.516 g, 4.22 mmol) in THF (600 ml) was stirred at rt for 4 h. The reaction mixture was concentrated to dryness, then taken up with EtOAc and filtered through silica. The silica cartridge was washed with EtOAc and THF, the combined filtrates were concentrated to leave the title compound as a pale yellow solid that was used in the next step without further purification.

reactant | 5-(6-bromo-pyridin-2-yl)-5-methyl-imidazolidine-2,4-dione | 84.4 mmol, 22.8 g | BrC1=CC=CC(=N1)C1(C(NC(N1)=O)=O)C | C9H8BrN3O2
reactant | Boc2O | 253.4 mmol, 58.8 ml, 55.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 4.22 mmol, 0.516 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 4-(6-Bromo-pyridin-2-yl)-4-methyl-2,5-dioxo-imidazolidine-1,3-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(N(C(C1=O)(C)C1=NC(=CC=C1)Br)C(=O)OC(C)(C)C)=O | C19H24BrN3O6
